US07273868B2
A mixture of 5-benzoyloxy-2-(3,4,5-trimethoxybenzoyl)benzoic acid 50 mg, 14.8M aqueous ammonia 50 μl, 1-ethyl-3-(3-dimethylaminopropyl)carbodiimido.hydrochloride 68 mg and 1-hydroxybenzotriazole 15.9 mg is dissolved under ice cooling in N,N-dimethylformamide 2 ml and the mixture is stirred overnight at room temperature. To the reaction mixture is added water. The mixture is extracted with ethyl acetate and the extract is washed with water and dried, followed by removal of the solvent. The residue is purified with silica gel chromatography (solvent: chloroform:ethyl acetate=1:1) and left to be crystallized. The crystals are triturated with diisopropyl ether-ethyl acetate to give 6-benzyloxy-3-hydroxy-3-(3,4,5-trimethoxyphenyl)-2,3-dihydroisoindol-1-one 46.7 mg. mp 187-189° C.

reactant | 5-benzoyloxy-2-(3,4,5-trimethoxybenzoyl)benzoic acid | 14.8M, 50 μl, 50 mg | C(C1=CC=CC=C1)(=O)OC=1C=CC(=C(C(=O)O)C1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O | C24H20O8
reactant | hydrochloride | 68 mg | Cl | ClH
reactant | 1-hydroxybenzotriazole | 15.9 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 6-benzyloxy-3-hydroxy-3-(3,4,5-trimethoxyphenyl)-2,3-dihydroisoindol-1-one | 46.7 mg | C(C1=CC=CC=C1)OC1=CC=C2C(NC(C2=C1)=O)(C1=CC(=C(C(=C1)OC)OC)OC)O | C24H23NO6
